US09085570B2
A solution of 4-(4-(cyclohexylsulfonylmethyl)-5-methyloxazol-2-yl)benzoic acid (500 mg, 1.38 mmol, 1.00 equiv), pyridin-3-ylmethanamine (180 mg, 1.67 mmol, 1.20 equiv), EDCI (320 mg, 1.68 mmol, 1.20 equiv), HOBt (220 mg, 1.63 mmol, 1.20 equiv) and triethylamine (420 mg, 4.16 mmol, 3.00 equiv) in N,N-dimethylformamide (10 mL) was stirred overnight at room temperature. The reaction mixture was diluted with 15 mL of water and ice. The precipitate was collected by filtration, washed with water and dried in a vacuum oven to give 0.25 g (40%) of 4-(4-(cyclohexylsulfonylmethyl)-5-methyloxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide as a white solid LC-MS: (ES, m/z): 454 [M+H]+, 347, 306, 238, 120 1HNMR (400 MHz, CDCl3, ppm) δ 8.97 (s, 1H), 8.57 (s, 2H), 8.21-8.05 (t, 4H), 7.54 (s, 2H), 4.73 (s, 2H), 4.17 (s, 2H), 3.02-2.98 (d, 2H), 2.90-2.50 (m, 6H), 2.31-2.20 (d, 2H), 1.95 (s, 2H), 1.74-1.61 (m, 3H), 1.29 (s, 3H

reactant | 4-(4-(cyclohexylsulfonylmethyl)-5-methyloxazol-2-yl)benzoic acid | 1.38 mmol, 500 mg, 1.00 equiv | C1(CCCCC1)S(=O)(=O)CC=1N=C(OC1C)C1=CC=C(C(=O)O)C=C1 | C18H21NO5S
reactant | pyridin-3-ylmethanamine | 1.67 mmol, 180 mg, 1.20 equiv | N1=CC(=CC=C1)CN | C6H8N2
reactant | EDCI | 1.68 mmol, 320 mg, 1.20 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.63 mmol, 220 mg, 1.20 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 4.16 mmol, 420 mg, 3.00 equiv | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 15 mL | O | H2O
product | 4-(4-(cyclohexylsulfonylmethyl)-5-methyloxazol-2-yl)-N-(pyridin-3-ylmethyl)benzamide | 0.25 g, 40% | C1(CCCCC1)S(=O)(=O)CC=1N=C(OC1C)C1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1 | C24H27N3O4S
